US07179819B2
To a stirred solution of tert-butyl 4-[N′-(2-methoxyphenyl)ureido]-3-methoxylphenyl-acetate (2.01 g, 5.20 mmol) in CH2Cl2 (15 ml) was added trifluoroacetic acid (10 ml), and the resulting mixture was heated under reflux for 30 min. The mixture was concentrated in vacuo. Water was added to the residue to give precipitate, which was collected by filtration. The crude solid was recrystallized from EtOH/hexane to give 4-[N′-(2-methoxyphenyl)ureido]-3-methoxy phenylacetic acid as white powder (1.40 g, 82%). mp 182–185° C.; 1H-NMR (CD3OD) δ 3.55 (s, 2 H), 3.88 (s, 3 H), 3.89 (s, 3 H), 6.80–6.99 (m, 5 H), 7.94 (d, J=8.4 Hz, 1 H), 8.00 (d, J=7.2 Hz, 1 H); MS (ESI) m/z 330 (M+).

reactant | tert-butyl 4-[N′-(2-methoxyphenyl)ureido]-3-methoxylphenyl-acetate | 5.20 mmol, 2.01 g | COC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC)=O | C21H26N2O5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-[N′-(2-methoxyphenyl)ureido]-3-methoxy phenylacetic acid | 1.40 g, 82% | COC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C17H18N2O5
